US07365065B2
2H-1,4-benzoxazin-3-(4M-one (4.5 g, 30 mmol) was added portionwise to a stirred suspension of lithium aluminium hydride (4.7 g, 120 mmol) in THF (100 ml) and heated at reflux for 3 h. The mixture was cooled in an ice/water bath and ammonia solution (8 ml) and water (40 ml) were added while stirring. The mixture was filtered through Celite and reduced. Chromatography (50% EtOAc/50% 60-80 petroleum ether) afforded benzomorpholine (3.7 g, 91%) as a pale brown oil.

reactant | lithium aluminium hydride | 120 mmol, 4.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonia | 8 ml | N | H3N
reactant | water | 40 ml | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | benzomorpholine | 3.7 g, 91% | O1CCNC2=C1C=CC=C2 | C8H9NO
